data/mechanisms/records/IMS4-EQ4.35.json
{"mechanism_id": "IMS4-EQ4.35", "species": [{"species_id": "pentanal_dimethylhydrazone_molecular_ion", "mapped_smiles": "[CH3:7][CH:6]([1H:3])[CH2:5][CH2:4][CH:1]=[N+:2][N:8]([CH3:9])[CH3:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_gamma_H_intermediate", "mapped_smiles": "[CH3:7][CH:6][CH2:5][CH2:4][CH:1]=[N+:2]([1H:3])[N:8]([CH3:9])[CH3:10]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "hydrazone_enamine_radical_cation", "mapped_smiles": "[CH2:4][CH:1]=[N+:2]([1H:3])[N:8]([CH3:9])[CH3:10]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "propene_neutral", "mapped_smiles": "[CH3:7][CH:6]=[CH2:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["pentanal_dimethylhydrazone_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["distonic_gamma_H_intermediate"]}, {"state_id": "state_products", "species_ids": ["hydrazone_enamine_radical_cation", "propene_neutral"]}], "steps": [{"step_id": "step_gamma_h_rearrangement", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 6]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_beta_cleavage_alpha", "from_state": "state_distonic", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH_4_35", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_gamma_h_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 73, "equation": "4.35", "figure": null, "panel": null, "section": "4.9 Radical site rearrangements (gamma-H rearrangement to an unsaturated group; hydrazones, Eq. 4.35)"}, "confidence": 0.85, "curator_note": "gamma-H rearrangement (labelled 'rH') of the n-ionized molecular ion of an N,N-dimethylhydrazone. Instantiated as pentanal N,N-dimethylhydrazone, CH3CH2CH2CH2CH=N-N(CH3)2 (M = C7H16N2, m/z 128), which is the aldehyde hydrazone whose McLafferty loses propene, matching the 'CH3-||' (propene) neutral drawn on the page. Convention B/C: the molecular ion is localized with BOTH the charge and the odd electron on the imine nitrogen (map 2, drawn '+.' on N in the figure), exactly as printed; the C=N double bond is retained (=N+.). ARC COUNT: the page draws the whole concerted six-membered-ring McLafferty on the reactant with 3 curved fishhook arcs total (1 for this H-transfer, 2 for the beta-cleavage step). For THIS rH step: Book draws 1 arc -- the sweeping fishhook running from the gamma C-H bond over to the N+. radical. Move <2> (one electron of the C(6)-H(3) bond into the forming N(2)-H(3) bond) is the drawn arc; move <1> (the odd electron on N(2) into that same forming N-H bond) and move <3> (the other C(6)-H(3) electron back onto the gamma-carbon C(6), leaving the radical there) are the implicit homolysis hooks required for electron balance (not separately drawn; the product distonic ion is simply shown with its radical already on the gamma-carbon). ENCODING NOTE: the migrating H (map 3) is written [1H] -- ordinary protium, isotope-tagged only so RDKit keeps it as an atom-mapped node -- letting the three fishhooks reference the real C(6)-H and N(2)-H bonds."}, {"evidence_id": "evidence_step_alpha_4_35", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_beta_cleavage_alpha", "support_type": "textbook_proposed", "locator": {"page": 73, "equation": "4.35", "figure": null, "panel": null, "section": "4.9 Radical site rearrangements (beta-cleavage / charge retention, labelled 'alpha')"}, "confidence": 0.85, "curator_note": "Radical-site beta-cleavage (arrow labelled 'alpha'): the gamma-carbon radical of the distonic ion forms the C(5)=C(6) pi bond and cleaves the beta C(4)-C(5) sigma bond, giving neutral propene plus the charge-retaining odd-electron ion (an alpha,beta-unsaturated dimethylhydrazinium radical cation, .CH2-CH=N+(H)-N(CH3)2). ARC COUNT: Book draws 2 arc(s) on the reactant ring for this stage -- one fishhook on the ring edge for the forming C(5)=C(6) pi bond and one fishhook at the alpha-carbon for the cleaving C(4)-C(5) sigma bond. Moves <1> (C(6) radical into the C(5)=C(6) pi bond) and <3> (one C(4)-C(5) electron onto the alpha-carbon C(4), the new radical site) are the drawn arcs; move <2> (the other C(4)-C(5) electron into the C(5)=C(6) pi bond) is the implicit hook required for electron balance. The cleaved C(4)-C(5) bond IS incident to C(5), one of the two pi-forming atoms -- correct McLafferty geometry. M/Z DISCREPANCY (flagged for review): the electron-balanced product ion drawn here (a true OE+. radical cation, C4H10N2) computes to m/z 86 (monoisotopic 86.0838); 128 - 42(propene) = 86. The page, however, prints 'm/z 85 = 100%'. m/z 85 is ODD and the ion carries TWO nitrogens, so by the nitrogen rule m/z 85 must be an EVEN-electron cation (C4H9N2+, the (CH3)2N-N=CH-CH2+ / dimethylhydrazonium ion, one H less than the drawn radical cation), NOT the OE+. species the '+.' in the figure depicts. The drawn concerted OE+. McLafferty product is m/z 86; the printed base peak m/z 85 is its even-electron analogue from a closely related pathway. observed_mz below is the computed value for the structure actually drawn/encoded (86.0838); the '90%' also printed on the page is retained here as a note."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 128.1308, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_86", "species_id": "hydrazone_enamine_radical_cation", "step_id": "step_beta_cleavage_alpha", "observed_mz": 86.0838, "relative_intensity": 1.0, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
